US06143772
1.1. 2-(3,3,3-Trifluoropropyl)-5-nitrobenzofuran
A suspension of 4.0 g (8.1 mmol) of (2-hydroxy-5-nitrophenyl) methyltriphenylphosphonium bromide in 50 ml of toluene is heated to reflux, then 5.1 ml (36 mmol) of triethylamine and 1.9 g (12 mmol) of 4,4,4-trifluorobutyryl chloride are added. The mixture is stirred for 2 hours, then it is filtered and the filtrate is concentrated under reduced pressure. By chromatography of the residue on a silica column using a 0-30% mixture of dichloromethane in cyclohexane, 1.1 g of product are obtained. Melting point: 70-71° C.

reactant | (2-hydroxy-5-nitrophenyl) methyltriphenylphosphonium bromide | 8.1 mmol, 4.0 g | [Br-].OC1=C(C=C(C=C1)[N+](=O)[O-])C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | triethylamine | 36 mmol, 5.1 ml | C(C)N(CC)CC | C6H15N
reactant | 4,4,4-trifluorobutyryl chloride | 12 mmol, 1.9 g | FC(CCC(=O)Cl)(F)F | C4H4ClF3O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3,3,3-Trifluoropropyl)-5-nitrobenzofuran | FC(CCC=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-])(F)F | C11H8F3NO3
